*   BF901 SPICE MODEL MARCH 1996 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF901 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   R=100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=0.6545 NFS=300E9 TOX=30.17E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.0877 KAPPA=1.474 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=0.6545 NFS=300E9 TOX=30.17E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF901

